US07223766B2
Preparation of 2-(5-Chloro-2-fluoro-phenyl)-6,6-dimethyl-6,7-dihydro-5H-cyclopentapyrimidin-4-ol
A solution of 4,4-Dimethyl-2-oxo-cyclopentanecarboxylic acid methyl ester (2.08 g, 12.21 mmol) and 5-Chloro-2-fluoro-benzamidine (2.32 g, 13.44 mmol) in 100% ethanol (40 mL) was heated to reflux overnight, then cooled and evaporated. The residue was dissolved in 1N (aq.) NaOH (50 mL) and washed with methylene chloride (2×50 mL). The aqueous layer was then acidified with glacial acetic acid to pH4 and extracted with methylene chloride (2×100 mL). The organic extracts were dried (brine and MgSO4) and evaporated to give crude product, purified by chromatography (CH2Cl2, 0-10% MeOH) to give the desired product as a cream solid (2.10 g, 59% yield).

reactant | 4,4-Dimethyl-2-oxo-cyclopentanecarboxylic acid methyl ester | 12.21 mmol, 2.08 g | COC(=O)C1C(CC(C1)(C)C)=O | C9H14O3
reactant | 5-Chloro-2-fluoro-benzamidine | 13.44 mmol, 2.32 g | ClC=1C=CC(=C(C(=N)N)C1)F | C7H6ClFN2
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 2-(5-Chloro-2-fluoro-phenyl)-6,6-dimethyl-6,7-dihydro-5H-cyclopentapyrimidin-4-ol | 2.10 g, 59% yield | ClC=1C=CC(=C(C1)C1=NC2=C(C(=N1)O)CC(C2)(C)C)F | C15H14ClFN2O
